US06727264B1
1-(3-CHLOROPROPYL)-1H-INDOLE:
Prepared by Procedure AH, and Scheme P using 1H-indole and 1-bromo-3-chloropropane: 1H NMR (400 MHz, CDCl3) δ 7.70-7.04 (m, 5H), 6.50 (d, 1H, J=2.8 Hz), 4.31 (t, 2H, J=6.8 Hz), 3.42 (t, 2H, J=6.4 Hz), 2.28-2.20 (m, 2H).

reactant | 1H-indole | N1C=CC2=CC=CC=C12 | C8H7N
reactant | 1-bromo-3-chloropropane | BrCCCCl | C3H6BrCl
product | 1-(3-CHLOROPROPYL)-1H-INDOLE | ClCCCN1C=CC2=CC=CC=C12 | C11H12ClN
